US06858651B2
In analogy to example 11.9, trans-4-amino-cyclohexanol and 4-(trifluoromethyl)-benzenesulfonyl chloride were converted to yield trans-N-(4-Hydroxy-cyclohexyl)-4-trifluoromethyl-benzenesulfonamide as white solid, 176.2° C., MS 322 (M-H).

reactant | trans-4-amino-cyclohexanol | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | 4-(trifluoromethyl)-benzenesulfonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | trans-N-(4-Hydroxy-cyclohexyl)-4-trifluoromethyl-benzenesulfonamide | O[C@@H]1CC[C@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C13H16F3NO3S
